US05047411
A mixture of acetic anhydride (6 ml), 2-acetamido-6-methylpyridine (8.00 g) and 3-benzyloxy-4-nitrobenzaldehyde (13.7 g), was heated at 180° C. for 22 hours with stirring. After cooling, the reaction mixture was dissolved in chloroform (150 ml). The solution was washed with aqueous potassium carbonate, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (640 g) by eluting with chloroform and washed with a mixture of ethyl acetate and diisopropyl ether to give 2-acetamido-6-[2-(3-benzyloxy-4-nitrophenyl)vinyl]pyridine (4.80 g).

reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-acetamido-6-methylpyridine | 8.00 g | C(C)(=O)NC1=NC(=CC=C1)C | C8H10N2O
reactant | 3-benzyloxy-4-nitrobenzaldehyde | 13.7 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C14H11NO4
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-acetamido-6-[2-(3-benzyloxy-4-nitrophenyl)vinyl]pyridine | 4.80 g | C(C)(=O)NC1=NC(=CC=C1)C=CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C22H19N3O4
